US06762180B1
3-Z-[1-(4-ureidomethyl-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone
300 mg of 3-Z-[1-(4-aminomethyl-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone are dissolved in 15 ml of methanol and 200 ml of triethylamine are added. Then 400 mg of potassium cyanate in 5 ml of water are added. After 2 days of stirring at room temperature the reaction solution is concentrated by rotary evaporation, the residue taken up in methylene chloride and washed once with water and once with saturated sodium chloride solution. The organic phase is dried over sodium sulphate and concentrated by rotary evaporation. The residue is dried in vacuo at 100° C.

reactant | 3-Z-[1-(4-aminomethyl-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone | 300 mg | NCC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OC)=O)C=C1 | C24H21N3O3
reactant | triethylamine | 200 ml | C(C)N(CC)CC | C6H15N
reactant | potassium cyanate | 400 mg | [O-]C#N.[K+]
solvent | methanol | 15 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 3-Z-[1-(4-ureidomethyl-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone | N(C(=O)N)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OC)=O)C=C1 | C25H22N4O4
